US07186729B2
2-(5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yloxy)-2-methyl-propionic acid ethyl ester
To a cooled (0° C.) solution of 5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-ol (250 mg, 0.51 mmol) in dimethylformamide (7 mL) was added sodium hydride (60% dispersion in oil, 31 mg, 0.76 mmol). The resulting mixture was stirred at 0° C. for 10 min. Ethyl 2-bromo-2-methyl propionate (149 mg, 0.76 mmol) was added. Stirring at 0° C. was continued 10 min before the mixture was warmed to rt and stirred 4 h. The reaction was then partitioned between ethyl acetate and water; the aqueous phase was back-extracted with additional ethyl acetate. The combined organic phases were washed thrice with water, brine and dried over magnesium sulfate, filtered and concentrated. The crude residue was purified by silica gel chromatography (methylene chloride—95:5 methylene chloride:methanol gradient) to afford the titled compound (233 mg, 76%).

reactant | 5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-ol | 0.51 mmol, 250 mg | ClC1=CC=C(C=C1)C1(C(CN(CC1)CCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)O)(C)C)O | C29H31ClN2O3
reactant | sodium hydride | 0.76 mmol, 31 mg | [H-].[Na+]
reactant | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | 2-(5-{3-[4-(4-Chloro-phenyl)-4-hydroxy-3,3-dimethyl-piperidin-1-yl]-propylidene}-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yloxy)-2-methyl-propionic acid ethyl ester | 233 mg, 76% | C(C)OC(C(C)(C)OC1=CC2=C(OCC3=C(C2=CCCN2CC(C(CC2)(O)C2=CC=C(C=C2)Cl)(C)C)C=CC=N3)C=C1)=O | C35H41ClN2O5
